US06221902B1
4-[4′-(2-Benzoyl-benzofuran-3-yl)-3-cyclopentyl-biphenyl-4-yloxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared from 4′-(2-benzoyl-benzofuran-3-yl)-3-cyclopentyl-biphenyl-4-ol and 4-chlorosulfonyl-2-hydroxy-benzoic acid, in substantially the same manner, as described in Example 1 step g, and was obtained as a yellow solid, mp 105-108° C.; MS m/e 694 (M-H)+;

reactant | 4′-(2-benzoyl-benzofuran-3-yl)-3-cyclopentyl-biphenyl-4-ol | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C1CCCC1)C=CC=C2 | C32H26O3
reactant | 4-chlorosulfonyl-2-hydroxy-benzoic acid | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4′-(2-Benzoyl-benzofuran-3-yl)-3-cyclopentyl-biphenyl-4-yloxysulfonyl]-2-hydroxy-benzoic acid | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C=C1)OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C1CCCC1)C=CC=C2 | C39H30O8S
